US05382590
The procedure is analogous to that described in Example 1 but 0.9 g of 2-(2-amino-N-phenyl-acetamido)-N-methyl-N-phenylacetamide and 0.4 g of 3-methylphenyl isocyanate are used as the starting material. After recrystallization from a mixture of diethyl ether and ethyl acetate (60-40 by volume), 0.4 g of N-methyl-N-phenyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenyl-acetamido}acetamide melting at 168° C. is obtained.

reactant | 2-(2-amino-N-phenyl-acetamido)-N-methyl-N-phenylacetamide | 0.9 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C1=CC=CC=C1)C | C17H19N3O2
reactant | 3-methylphenyl isocyanate | 0.4 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-methyl-N-phenyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenyl-acetamido}acetamide | 0.4 g | CN(C(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C25H26N4O3
